US08420812B2
1-Benzyl-3-(5-phenyl-pent-1-ynyl)-1H-indazole
This product was prepared from toluene-4-sulfonic acid 1-benzyl-1H-indazol-3-yl ester and pent-4-ynyl-benzene following the general procedure for the Sonogashira cross-coupling reaction described above. Chromatography eluent: heptane/DCM 1:1; yield (87.5 mg, 50%); δH (CDCl3): 7.92 (d, J=8.11 Hz, 1H), 7.4-7.19 (m, 8H), 7.15-7.08 (m, 5H), 5.5 (s, 2H), 2.76 (t, J=7.16 Hz, 2H), 2.4 (t, J=7.15 Hz, 2H), 1.91 (p, J=7.21 Hz, 2H); LCMS m/z: 350.

reactant | toluene-4-sulfonic acid 1-benzyl-1H-indazol-3-yl ester | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)OS(=O)(=O)C1=CC=C(C=C1)C | C21H18N2O3S
reactant | pent-4-ynyl-benzene | C(CCC#C)C1=CC=CC=C1 | C11H12
solvent | heptane DCM | CCCCCCC.C(Cl)Cl
product | 1-Benzyl-3-(5-phenyl-pent-1-ynyl)-1H-indazole | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C#CCCCC1=CC=CC=C1 | C25H22N2
